US07576094B2
To a solution of trimethylhydroquinone (30 g) in 200 mL of toluene was added acetyl chloride (28 mL). The reaction mixture was allowed to reflux for 2 hours. More acetyl chloride (28 mL) was added, and the reaction mixture was allowed to reflux for additional 2 hours. After the reaction was complete as indicated by TLC (20% ethyl acetate in hexane), the reaction was allowed to cool down and concentrated in vacuo. Recrystallization of the resulting residue from ethyl acetate and hexane gave 42.3 g of 2,3,5-trimethyl-1,4-phenylene diacetate as a white solid.

reactant | trimethylhydroquinone | 30 g | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | acetyl chloride | 28 mL | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 28 mL | C(C)(=O)Cl | C2H3ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2,3,5-trimethyl-1,4-phenylene diacetate | 42.3 g | C(C)(=O)OC1=C(C(=C(C(=C1)C)OC(C)=O)C)C | C13H16O4
